2110-05-05 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB, acute on chronic RF
   24 Hour Events:
 MULTI LUMEN - START [**2110-5-5**] 12:00 AM
 NASAL SWAB - At [**2110-5-5**] 12:12 AM
 ARTERIAL LINE - START [**2110-5-5**] 01:20 AM
   No overnight events
   Continued on levophed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-5-5**] 02:00 AM
   Midazolam (Versed) - [**2110-5-5**] 02:45 AM
   Fentanyl - [**2110-5-5**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-5**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 74 (57 - 74) bpm
   BP: 102/56(69) {84/48(-4) - 107/64(78)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.4 kg (admission): 85.4 kg
             Total In:
             8,660 mL
   PO:
             TF:
   IVF:
   2,160 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    375 mL
   Urine:
   375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  8,285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.41/34/184/23/-1
   Ve: 11.6 L/min
   PaO2 / FiO2: 460
   Physical Examination
   General: intubated, intermittently agitated
   HEENT: Sclera anicteric, PERRL but sluggish
   Neck: JVP elevated to 10cm. No bruits. Bandage on L neck from failed
   CVL attempt with hematoma
   Lungs: clear overall with slightly decreased breath sounds at bases
   CV: irregularly irregular with 2/6 SEM
    Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Groin: R femoral CVL site with mild oozing, dressing intact
   Ext: cool, well perfused, dopplerable pulses, 2+ edema bilaterally
   Labs / Radiology
   179 K/uL
   9.6 g/dL
   118 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.8 mEq/L
   115 mg/dL
   100 mEq/L
   139 mEq/L
   28.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2110-5-4**]  10:16 PM
                             [**2110-5-5**]  01:47 AM
                             [**2110-5-5**]  03:09 AM
   WBC
   11.3
   9.6
   Hct
   28.1
   Plt
   214
   179
   Cr
   3.5
   TCO2
   22
   Glucose
   118
   Other labs: PT / PTT / INR:18.4/33.8/1.7, ALT / AST:32/56, Alk Phos / T
   Bili:251/2.1, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:14.0 %, Eos:2.0 %, Lactic Acid:1.3 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   This is an 84M with multiple medical problems including severe systolic
   heart failure and afib on coumadin who presents from his NH with
   evidence of acute GI bleeding in the setting of slightly
   supratherapeutic INR.
   # GI bleed - Hct this am 28.1 down from 30.6 (21 on admission).  Goal
   hct >30 given hemodynamic instability. Source likely lower given
   negative NG lavage in ED. INR reversed at 1.7 this morning.
   -- GI aware, for EGD this morning
   -- no FFP, goal of <1.7
   -- continue PPI gtt
   -- serial Hcts q6h, transfuse to goal HCT of 30
   -- NPO, maintain active T+C
   -- access with CVL and 1 PIV currently
   # Shock -  Maintaining MAP's >60 on levophed.   Pt had SBPs dipping
   into the 70s in ER, started on norepinephrine in that setting. Likely
   hypovolemic shock, but other etiologies include cardiogenic and
   distributive/septic
   -- blood as above
   -- continue norepinephrine for now, goal to wean as volume reexpansion
   occurs
   -- hold on antibiotics as no evidence of infection/sepsis
   -- no evidence for cardiogenic etiology on clinical exam or CXR
   # Respiratory Failure - Inubtated, sating well on current settings. Was
   noted to have hypoxemia prior to transfer from NH, and confirmed on ED
   triage. In ED was intubated for airway protection in the setting of
   vomiting. However, concern for worsening of CHF s/p extensive blood
   product transfusions.  He is 8L positive since admission and will
   likely need diuresis prior to extubation.
   - will try on pressure support this afternoon to determine if ready for
   diuresis
 if pressures increase and tidal volumes decrease, this
   indicates need for diuresis
 would also tx with nitro gtt prior to
   extubation to decrease preload as extubation increases preload at
   baseline
   -- gas 7.41/34/184/22
   # Chronic Systolic CHF - Recent echo [**3-20**] with global process affecting
   LV and RV. Underlying etiology of cardiomyopathy is unclear. Had normal
   coronaries on cath in [**2103**].
   -- continue holding diuresis, BB, and [**Last Name (un) 239**] in setting of hypovolemia
   -- after hemodynamically stable, will begin to diurese to goal dry
   weight (165) as above
   # Acute on Chronic Renal Failure - Likely prerenal from hypovolemia in
   the setting of ongoing diuresis with GIB. Cr unchanged at 3.5 from
   admission.  FeNa 0.3% indicated pre renal etiology, no eos
   -- volume re-expansion with blood products [**First Name8 (NamePattern2) **] [**Last Name (un) 9149**]
   -- trend Cr
   -- renally dose meds
   -- hold calcitriol and cochicine until renal fxn normalizes
   # Afib - reversed anticoagulation in ER with factor IX, vit K, and FFP.
   Currently in slow fib.
   -- holding rate control agents (carvedilol) given GIB as well as ARF
   -- monitor on tele
   -- CHADS2 = 6, merits anticoagulation based on this but will have to
   re-assess given current presentation
   # ? Head bleed - felt unlikely per NSurg, need to clarify with
   neuroradiololgy and neuroSRG
   -- INR reversed at 1.7 this morning
   -- serial neuro exams, no focal deficits currently but exam limited by
   sedation and intubation
   # DM
   -- fixed and SSI, 1/2 dose while NPO
   -- DM diet when eating
   -- FSG qid
   # Code:
   -- documented as DNR/I per recent d/c summary
   -- will re-eval with daughter in AM
   # Communication:
   daughter [**Name (NI) 3880**] [**Name (NI) 9147**] daughter home: [**0-0-**] cell: [**Telephone/Fax (1) 3881**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2110-5-5**] 12:00 AM
   18 Gauge - [**2110-5-5**] 12:00 AM
   Arterial Line - [**2110-5-5**] 01:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   Critical Care time 60 minutes for respiratory failure, ventilator
   management and heart failure management as well as ongoing managment of
   GI bleeding.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2110-5-5**] 10:28 ------

2110-05-06 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EGD negative for UGIB; patient recently had colonoscopy which was
   essentially normal (except for polyps in the ascending colon); per GI,
   if starts to bleed, recommend capsule study
   - PPI changed from continuous to once daily given no UGIB
   - CT head ([**2110-5-4**], final read):
   1. Evolution of the right parietal infarct with development of cortical
   serpiginous hemorrhage (laminar necrosis).
   2. Near-complete opacification of the nasopharynx. Recommend clinical
   correlation.
   - CT chest/abd/pelvis ([**2110-5-4**], final read):
   1. Bowel wall thickening, most pronounced along the right hemi-colon,
   compatible with colitis. The differential diagnoses include infectious,
   inflammatory, and ischemic etiologies.
   2. Interval increase in a moderate right and small left pleural
   effusion with right lower lobe consolidation (likely aspiration)
   3. Anasarca.
   - Per neurosurgery, neuro exam nonfocal. No intervention needed at this
   time. Confident that there is no acute bleed.
   - Is there more to his story than hypovolemic shock? Also call of
   colitis, aspiration pneumonia on CT.
   - Hct 28.1 > 31.2 > 30.3
   - Spoke to HCP, patient is DNR per his wishes
   - Levophed initially increased given sedation bolus for upper
   endoscopy; NS 250cc bolus 2:00pm to help wean pressor; Levophed stopped
   at 2:30pm
   - Pressure support 15/5, 40%: 7.41/38/122 > PS 5/5 > SIMV given low
   respiratory rate with sedation
   - 4pm lytes:  Stable, no repletions needed
   - 10:30pm:  Lasix 40mg IV x1 without successful urine output
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2110-5-5**] 08:45 AM
   Fentanyl - [**2110-5-5**] 09:45 AM
   Furosemide (Lasix) - [**2110-5-5**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated; sedated
   Flowsheet Data as of  [**2110-5-6**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 71 (64 - 81) bpm
   BP: 123/68(85) {83/43(54) - 132/71(90)} mmHg
   RR: 11 (5 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.4 kg (admission): 85.4 kg
             Total In:
                                                                  9,849 mL
                                                                    184 mL
   PO:
             TF:
   IVF:
                                                                  2,999 mL
                                                                    184 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    955 mL
                                                                    280 mL
   Urine:
                                                                    955 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,894 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 575 (346 - 776) mL
   PS : 5 cmH2O
   RR (Set): 6
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 12
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/44/174/22/-2
   Ve: 5.8 L/min
   PaO2 / FiO2: 435
   Physical Examination
   General:  Intubated, intermittently agitated
   HEENT:  Sclera anicteric
   Neck:  JVP approximately 8cm
   Lungs:  Good air movement (anterior auscultation); right basilar
   crackles
   CV:  Irregularly irregular; [**1-17**] early systolic murmur LLSB,
   nonradiating
   Abdomen:  Soft, non-distended, bowel sounds present, no guarding
   Groin:  R femoral CVL site dressed, clean
   Ext:  Cool feet with palpable pulses; pneumoboots in place; 1+ pitting
   edema at ankles
   Labs / Radiology
   184 K/uL
   9.7 g/dL
   146 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.7 mEq/L
   118 mg/dL
   101 mEq/L
   138 mEq/L
   29.8 %
   10.6 K/uL
        [image002.jpg]
   PT: 17.9
   PTT: 35.7
   INR: 1.6
   N:87.4 L:5.8 M:5.5 E:1.0 Bas:0.3
   ALT: 31
   AP: 218
   Tbili: 1.3
   Alb:
   AST: 45
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 429**]:
   Lip:
                             [**2110-5-4**]  10:16 PM
                             [**2110-5-5**]  01:47 AM
                             [**2110-5-5**]  03:09 AM
                             [**2110-5-5**]  10:51 AM
                             [**2110-5-5**]  01:37 PM
                             [**2110-5-5**]  04:35 PM
                             [**2110-5-6**]  04:02 AM
                             [**2110-5-6**]  04:27 AM
   WBC
   11.3
   9.6
   10.6
   Hct
   28.1
   31.2
   30.3
   29.8
   Plt
   [**Telephone/Fax (3) 9156**]
   Cr
   3.5
   3.6
   3.8
   TCO2
   22
   25
   25
   Glucose
   118
   134
   146
   Other labs: PT / PTT / INR:17.9/35.7/1.6, ALT / AST:31/45, Alk Phos / T
   Bili:218/1.3, Differential-Neuts:87.4 %, Band:0.0 %, Lymph:5.8 %,
   Mono:5.5 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, Ca++:8.0 mg/dL, Mg++:2.8
   mg/dL, PO4:6.6 mg/dL
[**2110-5-4**] 4:40 pm BLOOD CULTURE
      Blood Culture, Routine (Pending) x2
   Assessment and Plan
   84M with severe systolic heart failure and atrial fibrillation on
   coumadin transferred from OSH with acute GI bleeding in the setting of
   supratherapeutic INR
   #. Respiratory failure:  Intubated in ED given hypoxic respiratory
   failure and for airway protection due to vomiting. Hypoxic respiratory
   failure may be related to decompensated heart failure given large
   volume fluid resuscitation. CT chest on admission also comments on
   likely aspiration pneumonia. Over past 24 hours was weaned to pressure
   support, [**4-15**] FiO2 40%. Limiting factors for extubation were (1) apnea
   and (2) poor diuresis raising concern for worsened pulmonary edema once
   PEEP is removed.
        Reason for apnea is not clear. Differential includes medications
   (fentanyl, midazolam), Cheynne-[**Doctor Last Name 1465**] respirations due to severe
   systolic heart failure, and CNS process given concern for recent
   intracranial hemorrhage.
        Patient was given Lasix 40mg IV overnight with minimal diuresis.
   -          Management of ?intracranial hemorrhage as below
   -          Wean sedation medications to see if apnea improves
   -          Diuresis with Lasix 100mg IV x1
   -          Only marker of infection is left-shift; given lack of
   secretions and fever, will hold off on treating for pneumonia at this
   time
   #. Shock:  Initially attributed to hypovolemic shocks given large
   hematocrit drop from baseline and melanotic stools at outside hospital.
   [**Month (only) 60**] also be a component of cardiogenic shock given that patient was off
   of diuretics and has known poor systolic function. In addition, CT
   chest/abd/pelvis from admission comments on likely aspiration pneumonia
   and right-sided colitis, raising concern for sepsis
 this is less
   likely given lack of fever, leukocytosis, and infectious symptoms.
        Over past 24 hours patient was weaned off of pressors.
   -          Continue to hold on antibiotics as patient does not appear
   to have active infection (keeping in mind that he may not be able to
   mount fever or leukocytosis)
   -          Maintain MAP>55; successful for 12+ hours off of pressors
   #. GI bleed:  Hematocrit stable. Upper endoscopy with evidence of
   gastritis but no evidence of active bleeding. Patient recently had
   colonoscopy that showed a polyp but was otherwise normal (ie no
   hemorrhoids, diverticulosis).
   -          Per GI, if patient has active bleeding, consider capsule
   study
   -          Continue PPI IV daily
   -          Check hematocrit [**Hospital1 **]; maintain active T+C
   -          Maintain 2 PIVs in case of large volume resuscitation
   #. ?Head bleed:  Initially felt by neurosurgery to be non-acute.
   -          Contact neurosurgery regarding apnea, restarting
   anticoagulation (for atrial fibrillation), and need for reimaging to
   assess for change
   #. Systolic heart failure:  Recent echo [**3-20**] with global process
   affecting LV and RV. Underlying etiology of cardiomyopathy is unclear.
   Had normal coronaries on cath in [**2103**].
   -          Diuresis as above
   -          Restart beta-blocker at low dose
   -          Continue holding [**Last Name (un) 239**] given renal failure
   #. Acute on chronic renal failure:  Likely prerenal from hypovolemia.
   FeNa 0.3% on admission indicated pre renal etiology, no eos
   - Renally dose medications
   - Hold calcitriol and cochicine until renal fxn normalizes
   - Expect improvement with improve perfusion of kidneys
   #. Afib - reversed anticoagulation in ER with factor IX, vit K, and
   FFP. Currently in slow fib.
   - Restart beta-blocker, as above
   - Monitor on telemetry
   - Restart anticoagulation pending discussion with neurosurgery
   #. DM
   - Fixed and SSI, 1/2 dose while NPO
   - Fingersticks QID
   #. Code status:  DNR, confirmed with healthcare proxy
   #. Communication:  [**First Name4 (NamePattern1) 3880**] [**Last Name (NamePattern1) 9147**] (daughter), ([**2103**] (h),
   ([**Telephone/Fax (1) 9159**] (c)
   ICU Care
   Nutrition:  Place NGT today and start tubefeeds
   Glycemic Control:  Fixed and SSI, as above
   Lines:
   Multi Lumen - [**2110-5-5**] 12:00 AM
   18 Gauge - [**2110-5-5**] 12:00 AM
   Arterial Line - [**2110-5-5**] 01:20 AM
   Prophylaxis:
   DVT:  Pneumoboots, start heparin SC TID
   Stress ulcer:  PPI IV
   VAP:  Mouth care
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition:  Will stay in ICU today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 5702**].
   I would add the following remarks:
   Medical Decision Making
   Continues with tenuous hemodynamics on and off pressors.  Respiratory
   failure with abnormal breathing pattern.  Will continue to investigate
   central process for this and determine if anticoagulation is safe at
   this point.  Volume status is difficult to manage give renal failure.
   No plan for extubation yet.  Critical care time 60 minutes for
   respiratory failure and tenuous hemodynamics.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2110-5-6**] 12:38 ------

2110-05-07 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRAUMA LINE - START [**2110-5-6**] 09:26 PM
 MULTI LUMEN - STOP [**2110-5-6**] 09:37 PM
   - Lasix 100mg IV x1 8 am. Started lasix gtt and diuril x1 in AM. Minus
   665 cc at MN.
   - NG tube placed. TFs started.
   - EJ placed. Pulled femoral line.
   - Restarted carvedilol 3.125 [**Hospital1 **] (home dose 12.5 [**Hospital1 **])
   - Hct 28.1 > 31.2 > 30.3 > 29.8 >28.7. Received total of 4 U PRBC over
   hospital stay (none yesterday)
   - Tapered sedation
   - SBT - deferred given continued fluid overload
   - GI c/s - No new recs
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] c/s - apnea, anticoagululation - No systemic anticoagulation
   x2 weeks, but SQH OK. Plan to re-eval after sedation reduced.
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-5-6**] 08:00 AM
   Furosemide (Lasix) - [**2110-5-6**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2110-5-6**] 09:22 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Sedated
   Flowsheet Data as of  [**2110-5-7**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (59 - 80) bpm
   BP: 93/49(61) {81/43(54) - 130/69(88)} mmHg
   RR: 4 (4 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.4 kg (admission): 85.4 kg
             Total In:
                                                                    730 mL
                                                                    336 mL
   PO:
             TF:
                                                                     65 mL
                                                                     75 mL
   IVF:
                                                                    665 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    335 mL
   Urine:
                                                                  1,395 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,335 (116 - 1,335) mL
   PS : 5 cmH2O
   RR (Set): 6
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/43/179/23/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 447
   Physical Examination
   General:  Intubated, unresponsive
   HEENT:  Sclera anicteric, pupils pinpoint, sluggish
   Neck:  JVP approximately 8cm
   Lungs:  Good air movement (anterior auscultation); right basilar
   crackles
   CV:  Irregularly irregular; prominent S2; [**1-17**] early systolic murmur
   LLSB, nonradiating
   Abdomen:  Soft, non-distended, decreased bowel sounds, no guarding
   Groin:  R femoral CVL site dressed, clean
   Ext:  Cool feet with palpable pulses; pneumoboots in place; 1+ pitting
   edema at ankles
   Labs / Radiology
   200 K/uL
   9.7 g/dL
   101 mg/dL
   4.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   120 mg/dL
   103 mEq/L
   140 mEq/L
   29.3 %
   11.2 K/uL
        [image002.jpg]
   Ca: 8.6 Mg: 3.1 P: 7.6
   PT: 17.3
   PTT: 34.3
   INR: 1.6
                             [**2110-5-5**]  03:09 AM
                             [**2110-5-5**]  10:51 AM
                             [**2110-5-5**]  01:37 PM
                             [**2110-5-5**]  04:35 PM
                             [**2110-5-6**]  04:02 AM
                             [**2110-5-6**]  04:27 AM
                             [**2110-5-6**]  09:58 AM
                             [**2110-5-6**]  03:10 PM
                             [**2110-5-6**]  03:18 PM
                             [**2110-5-7**]  04:27 AM
   WBC
   9.6
   10.6
   11.2
   Hct
   28.1
   31.2
   30.3
   29.8
   28.7
   29.3
   Plt
   179
   184
   200
   Cr
   3.5
   3.6
   3.8
   4.1
   4.1
   TCO2
   25
   25
   23
   26
   Glucose
   118
   134
   146
   150
   101
   Other labs: PT / PTT / INR:17.3/34.3/1.6, ALT / AST:31/45, Alk Phos / T
   Bili:218/1.3, Differential-Neuts:87.4 %, Band:0.0 %, Lymph:5.8 %,
   Mono:5.5 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, Ca++:8.6 mg/dL, Mg++:3.1
   mg/dL, PO4:7.6 mg/dL
   Blood culture ([**2110-5-4**]):  No growth to date x2
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   84M with severe systolic heart failure and atrial fibrillation on
   coumadin transferred from OSH with acute GI bleeding in the setting of
   supratherapeutic INR, still somewhat wet and with worsening renal
   failure.
   #. Respiratory failure:  Intubated in ED given hypoxic respiratory
   failure and for airway protection due to vomiting. Hypoxic respiratory
   failure may be related to decompensated heart failure given large
   volume fluid resuscitation. CT chest on admission also comments on
   likely aspiration pneumonia. Limiting factors for extubation are (1)
   apnea and (2) fluid overload raising concern for worsened pulmonary
   edema once PEEP is removed.
        Reason for apnea is not clear. Differential includes medications
   (fentanyl, midazolam), Cheynne-[**Doctor Last Name 1465**] respirations due to severe
   systolic heart failure, and CNS process given concern for recent
   intracranial hemorrhage. Neurosurgery did not feel that apnea was
   related to ICH.
        Patient was diuresed overnight with Lasix drip and one dose of
   Diuril.
   -          Neurology consult re: apnea, unresponsiveness off of
   sedatives
   -          Wean sedation medications to see if apnea improves
   -          Diuresis with Lasix drip and Diuril
   -          Only marker of infection is left-shift; given lack of
   secretions and fever, will hold off on treating for pneumonia at this
   time
   -          Given apnea, was transitioned back to assist control
   #. Acute on chronic renal failure:  Likely prerenal from hypovolemia.
   FeNa 0.3% on admission indicated pre renal etiology, no eos
   -          Renally dose medications
   -          Hold calcitriol, cochicine, [**Last Name (un) 239**]
   -          Check PM electrolytes
   -          Renal consult
   -          Phos binder
   #. Shock:  Initially attributed to hypovolemic shocks given large
   hematocrit drop from baseline and melanotic stools at outside hospital.
   [**Month (only) 60**] also be a component of cardiogenic shock given that patient was off
   of diuretics and has known poor systolic function. In addition, CT
   chest/abd/pelvis from admission comments on likely aspiration pneumonia
   and right-sided colitis, raising concern for sepsis
 this is less
   likely given lack of fever, leukocytosis, and infectious symptoms. Has
   not required pressors for >24 hours.
   -          Continue to hold on antibiotics as patient does not appear
   to have active infection (keeping in mind that he may not be able to
   mount fever or leukocytosis)
   -          Maintain MAP>55
   #. GI bleed:  Hematocrit stable. Upper endoscopy with evidence of
   gastritis but no evidence of active bleeding. Patient recently had
   colonoscopy that showed a polyp but was otherwise normal (ie no
   hemorrhoids, diverticulosis).
   -          Per GI, if patient has active bleeding, consider capsule
   study
   -          Continue PPI IV daily
   -          Change to QD HCT checks; maintain active T+C
   -          Maintain 2 PIVs in case of large volume resuscitation
   #. ?Head bleed:  Initially felt by neurosurgery to be non-acute.
   -          Neurosurgery recs
   -          Neurology consult, as above
   #. Systolic heart failure:  Recent echo [**3-20**] with global process
   affecting LV and RV. Underlying etiology of cardiomyopathy is unclear.
   Had normal coronaries on cath in [**2103**].
   -          Diuresis as above goal negative 500; re-check PM creatinine
   -          Continue low-dose beta-blockage
   -          Continue holding [**Last Name (un) 239**] given renal failure
   #. Afib:  Reversed anticoagulation in ER with factor IX, vit K, and
   FFP. Currently in slow fib.
   -          Low dose beta-blocker, as above
   -          Monitor on telemetry
   -          Per neurosurgery recs, will hold anticoagulation for 2
   weeks; start [**2110-5-18**]
   #. DM
   - Fixed and SSI, 1/2 dose while NPO
   - Fingersticks QID
   #. Code status:  DNR, confirmed with healthcare proxy
   #. Communication:  [**First Name4 (NamePattern1) 3880**] [**Last Name (NamePattern1) 9147**] (daughter), ([**2110**] (h),
   ([**Telephone/Fax (1) 9159**] (c)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2110-5-6**] 05:30 PM 10 mL/hour
   Nutrition recs
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-5-5**] 12:00 AM
   Arterial Line - [**2110-5-5**] 01:20 AM
   Trauma line - [**2110-5-6**] 09:26 PM (EJ)
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  PPI
   VAP:  Mouth care
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:  CCU

2110-05-08 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Redosed diuril
   - Goal i/o even; negative 900cc's at 1700 so holding Lasix for
   remainder of day
   - Neuro consult PND
   - Renal consult PND
   - Nutrition recs: Novosource renal
   - Urine lytes showed BUrea 291, Creat 27, Na 93. Fe Urea = 37
   (indeterminate).
   - Holding TF's in case can be extubated tomorrow
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-5-7**] 09:22 AM
   Midazolam (Versed) - [**2110-5-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2110-5-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-8**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 78 (58 - 78) bpm
   BP: 128/67(85) {95/48(63) - 133/67(87)} mmHg
   RR: 19 (5 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.5 kg (admission): 85.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,303 mL
                                                                    217 mL
   PO:
             TF:
                                                                    401 mL
                                                                     45 mL
   IVF:
                                                                    721 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                  1,250 mL
   Urine:
                                                                  3,320 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,017 mL
                                                                 -1,033 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 520 (520 - 848) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.44/39/172/26/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General:  Intubated, unresponsive
   HEENT:  Sclera anicteric, pupils pinpoint, sluggish
   Neck:  JVP approximately 8cm
   Lungs:  Good air movement (anterior auscultation); right basilar
   crackles
   CV:  Irregularly irregular; prominent S2; [**1-17**] early systolic murmur
   LLSB, nonradiating
   Abdomen:  Soft, non-distended, decreased bowel sounds, no guarding
   Groin:  R femoral CVL site dressed, clean
   Ext:  Cool feet with palpable pulses; pneumoboots in place; 1+ pitting
   edema at ankles
   Labs / Radiology
   185 K/uL
   10.1 g/dL
   115 mg/dL
   3.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   118 mg/dL
   102 mEq/L
   142 mEq/L
   31.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2110-5-6**]  09:58 AM
                             [**2110-5-6**]  03:10 PM
                             [**2110-5-6**]  03:18 PM
                             [**2110-5-7**]  04:27 AM
                             [**2110-5-7**]  08:12 AM
                             [**2110-5-7**]  04:06 PM
                             [**2110-5-7**]  04:15 PM
                             [**2110-5-7**]  09:43 PM
                             [**2110-5-8**]  04:53 AM
                             [**2110-5-8**]  05:05 AM
   WBC
   11.2
   9.2
   8.9
   Hct
   28.7
   29.3
   28.4
   31.0
   Plt
   200
   173
   185
   Cr
   4.1
   4.1
   4.1
   3.9
   TCO2
   23
   26
   25
   28
   27
   Glucose
   150
   101
   115
   115
   Other labs: PT / PTT / INR:17.3/34.3/1.6, ALT / AST:31/45, Alk Phos / T
   Bili:218/1.3, Differential-Neuts:87.4 %, Band:0.0 %, Lymph:5.8 %,
   Mono:5.5 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:3.0
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   84M with severe systolic heart failure and atrial fibrillation on
   coumadin transferred from OSH with acute GI bleeding in the setting of
   supratherapeutic INR, still somewhat wet and with worsening renal
   failure.
   #. Respiratory failure:  Intubated in ED given hypoxic respiratory
   failure and for airway protection due to vomiting. Hypoxic respiratory
   failure may be related to decompensated heart failure given large
   volume fluid resuscitation. CT chest on admission also comments on
   likely aspiration pneumonia. Limiting factors for extubation are (1)
   apnea and (2) fluid overload raising concern for worsened pulmonary
   edema once PEEP is removed.
        Reason for apnea is not clear. Differential includes medications
   (fentanyl, midazolam), Cheynne-[**Doctor Last Name 1465**] respirations due to severe
   systolic heart failure, and CNS process given concern for recent
   intracranial hemorrhage. Neurosurgery did not feel that apnea was
   related to ICH.
        Patient was diuresed overnight with Lasix drip and one dose of
   Diuril.
   -          Neurology consult re: apnea, unresponsiveness off of
   sedatives
   -          Wean sedation medications to see if apnea improves
   -          Diuresis with Lasix drip and Diuril
   -          Only marker of infection is left-shift; given lack of
   secretions and fever, will hold off on treating for pneumonia at this
   time
   -          Given apnea, was transitioned back to assist control
   #. Acute on chronic renal failure:  Likely prerenal from hypovolemia.
   FeNa 0.3% on admission indicated pre renal etiology, no eos
   -          Renally dose medications
   -          Hold calcitriol, cochicine, [**Last Name (un) 239**]
   -          Check PM electrolytes
   -          Renal consult
   -          Phos binder
   #. Shock:  Initially attributed to hypovolemic shocks given large
   hematocrit drop from baseline and melanotic stools at outside hospital.
   [**Month (only) 60**] also be a component of cardiogenic shock given that patient was off
   of diuretics and has known poor systolic function. In addition, CT
   chest/abd/pelvis from admission comments on likely aspiration pneumonia
   and right-sided colitis, raising concern for sepsis
 this is less
   likely given lack of fever, leukocytosis, and infectious symptoms. Has
   not required pressors for >24 hours.
   -          Continue to hold on antibiotics as patient does not appear
   to have active infection (keeping in mind that he may not be able to
   mount fever or leukocytosis)
   -          Maintain MAP>55
   #. GI bleed:  Hematocrit stable. Upper endoscopy with evidence of
   gastritis but no evidence of active bleeding. Patient recently had
   colonoscopy that showed a polyp but was otherwise normal (ie no
   hemorrhoids, diverticulosis).
   -          Per GI, if patient has active bleeding, consider capsule
   study
   -          Continue PPI IV daily
   -          Change to QD HCT checks; maintain active T+C
   -          Maintain 2 PIVs in case of large volume resuscitation
   #. ?Head bleed:  Initially felt by neurosurgery to be non-acute.
   -          Neurosurgery recs
   -          Neurology consult, as above
   #. Systolic heart failure:  Recent echo [**3-20**] with global process
   affecting LV and RV. Underlying etiology of cardiomyopathy is unclear.
   Had normal coronaries on cath in [**2103**].
   -          Diuresis as above goal negative 500; re-check PM creatinine
   -          Continue low-dose beta-blockage
   -          Continue holding [**Last Name (un) 239**] given renal failure
   #. Afib:  Reversed anticoagulation in ER with factor IX, vit K, and
   FFP. Currently in slow fib.
   -          Low dose beta-blocker, as above
   -          Monitor on telemetry
   -          Per neurosurgery recs, will hold anticoagulation for 2
   weeks; start [**2110-5-18**]
   #. DM
   - Fixed and SSI, 1/2 dose while NPO
   - Fingersticks QID
   #. Code status:  DNR, confirmed with healthcare proxy
   #. Communication:  [**First Name4 (NamePattern1) 3880**] [**Last Name (NamePattern1) 9147**] (daughter), ([**2110**] (h),
   ([**Telephone/Fax (1) 9159**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-5-5**] 12:00 AM
   Arterial Line - [**2110-5-5**] 01:20 AM
   Trauma line - [**2110-5-6**] 09:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2110-05-09 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2110-5-8**]
   - Extubated
   - Renal recs:  Continue to diurese. Send urine protein/creatinine ratio
   to assess for amyloid given anasarca. Lasix 80mg PO daily restarted,
   urine studies sent.
   - 6PM:  I/O -2L
   - MAP 70; HR 60s - Anti-hypertensive not started
   - Updated daughter. At baseline, he is alert, orient to person, place,
   month, year, knows president, can have lengthy meaningful convesations.
   - Neurology consult
   - Failed speech and swallow; tubefeeds restarted
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: There are no new addendums to
   the medical history except as noted below in plan under
?head bleed
   Please see below.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems at
   this time.
   Flowsheet Data as of  [**2110-5-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 67 (61 - 78) bpm
   BP: 109/56(72) {104/52(69) - 134/72(91)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.5 kg (admission): 85.5 kg
   Height: 71 Inch
             Total In:
                                                                    818 mL
                                                                    211 mL
   PO:
             TF:
                                                                    188 mL
                                                                     97 mL
   IVF:
                                                                    480 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  3,465 mL
                                                                    655 mL
   Urine:
                                                                  3,465 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,647 mL
                                                                   -444 mL
   Respiratory support
   Physical Examination
   General:   alert, responds to commands  (squeezes hands, moves feet)
   HEENT:  Sclera anicteric, pupils equal and reactive
   Neck:  JVP approximately not discernable
   Lungs:  Clear to auscultation bilaterally; good air movement
   CV:  Irregularly irregular; prominent S2; [**1-17**] early systolic murmur
   LLSB, nonradiating
   Abdomen:  Soft, non-distended, normoactive bowel sounds, no guarding
   Groin:  R femoral CVL site dressed, clean
   Ext:  Pneumoboots in place; trace pitting edema to knees bilaterally;
   right lower extremity is cooler than left; DP, radial pulses 2+
   Labs / Radiology
   185 K/uL
   10.1 g/dL
   105 mg/dL
   3.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   114 mg/dL
   105 mEq/L
   145 mEq/L
   31.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2110-5-7**]  08:12 AM
                             [**2110-5-7**]  04:06 PM
                             [**2110-5-7**]  04:15 PM
                             [**2110-5-7**]  09:43 PM
                             [**2110-5-8**]  04:53 AM
                             [**2110-5-8**]  05:05 AM
                             [**2110-5-8**]  12:05 PM
                             [**2110-5-8**]  06:05 PM
                             [**2110-5-8**]  11:02 PM
                             [**2110-5-9**]  06:45 AM
   WBC
   9.2
   8.9
   Hct
   28.4
   31.0
   Plt
   173
   185
   Cr
   4.1
   3.9
   3.5
   TCO2
   25
   28
   27
   29
   29
   29
   Glucose
   115
   115
   105
   Other labs: PT / PTT / INR:17.3/34.3/1.6, ALT / AST:31/45, Alk Phos / T
   Bili:218/1.3, Differential-Neuts:87.4 %, Band:0.0 %, Lymph:5.8 %,
   Mono:5.5 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   84M with severe systolic heart failure and atrial fibrillation on
   coumadin transferred from OSH with hypovolemic shock likely secondary
   to acute GI bleed in the setting of supratherapeutic INR
   #. Respiratory failure:  Intubated in ED given hypoxic respiratory
   failure and for airway protection due to vomiting. Hypoxic respiratory
   failure may have been related to decompensated heart failure in the
   setting of large volume fluid resuscitation.  His two hurdles for
   extubation
 apnea and fluid overload
  were overcome by 5.27 and the
   patient was extubated. He has had excellent respiratory status since
   extubation. Appears approx. euvolemic.
   -          Continue Lasix 80, goal negative 1L
   -          Con
t to monitor
   #. Acute on chronic renal failure:  Improved. Patient autodiuresing.
   Creatinine trending down nicely at 3.5 today from max 4.1. Likely
   etiology for kidney injury was ATN.
   -          Renally dose medications
   -          Hold calcitriol, cochicine, [**Last Name (un) 239**]
   -          F/ u Renal recs
   -          Phos binder
   #. Shock:  Now hemodynamically stable, off of pressors for several days
   now. Initially attributed to hypovolemic shocks given large hematocrit
   drop from baseline and melanotic stools at outside hospital. [**Month (only) 60**] also
   be a component of cardiogenic shock given that patient was off of
   diuretics and has known poor systolic function. In addition, CT
   chest/abd/pelvis from admission comments on likely aspiration pneumonia
   and right-sided colitis, raising concern for sepsis
 this is less
   likely given lack of fever, leukocytosis, and infectious symptoms. Has
   not required pressors for greater than 48 hours.
   #. GI bleed:  Hematocrit stable, trending up to 31 from 28.4 yesterday.
   Upper endoscopy with evidence of gastritis but no evidence of active
   bleeding. Patient recently had colonoscopy that showed a polyp but was
   otherwise normal (ie no hemorrhoids, diverticulosis).
   -          Per GI, if patient has active bleeding, consider capsule
   study
   -          Transition IV PPI to PO today
   -          Monitor hematocrit
 stable for several days now
   #. ?Head bleed: Epidural Hematoma.  Initially felt by neurosurgery to
   be non-acute. Patient is s/p R MCA stroke on [**3-29**], thought to be
   embolic in the setting of A fib without anti-coagulation. At that time,
   Coumadin and ASA were re-started, with plan to stop ASA when IRN was
   therapeutic given GI polyps.  Per neurology, would hold on re-starting
   anticoagulation for now. The patient is indeed at high risk for
   recurrent stroke given his risk factors of CHF, DM, and atrial
   fibrillation, coumadin and aspirin use should be carefully weighed in
   this patient given and should optimally be held until the bleeding
   source is identified. Neurosurg rec starting anti-coag on [**5-18**].
         -        Restart ASA and Coumadin in [**5-18**]
   -          F/ u Neurosurgery recs
   -           F/u Neuro recs
   #. MS changes: Likely [**1-13**] to Hypernatremia and recent sedatives. Will
   expect correction with free water and now that he is s/p extubation off
   benzos/sedatives. If continues without improvement, MR [**First Name (Titles) 303**] [**Last Name (Titles) **].
   -          Hold sedating meds
   -          Con
t to follow
   -          2L D5W
   #. Systolic heart failure:  Recent echo [**3-20**] with global process
   affecting LV and RV. Underlying etiology of cardiomyopathy is unclear.
   Had normal coronaries on cath in [**2103**].
   -          Hold off on diuresis (patient is autodiuresing)
   -          Uptitrate beta-blocker yesterday
   -          Continue holding [**Last Name (un) 239**] given renal failure
   #. Afib:  Reversed anticoagulation in ER with factor IX, vit K, and
   FFP. Currently in slow fib.
   -          Low dose beta-blocker, as above
   -          Monitor on telemetry
   -          Per neurosurgery recs, will hold anticoagulation for 2
   weeks; start [**2110-5-18**]
   #. DM:  Blood glucose well-controlled
   - Fixed and SSI, 1/2 dose while NPO
   - Fingersticks QID
   #. Code status:  DNR, confirmed with healthcare proxy
   #. Communication:  [**First Name4 (NamePattern1) 3880**] [**Last Name (NamePattern1) 9147**] (daughter), ([**2110**] (h),
   ([**Telephone/Fax (1) 9159**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-5-5**] 12:00 AM
   Arterial Line - [**2110-5-5**] 01:20 AM
   Trauma line - [**2110-5-6**] 09:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: